PCB_Project
*SPICE Netlist generated by Advanced Sim server on 10/26/2023 4:43:59 PM
.options MixedSimGenerated

*Schematic Netlist:
RR1 Net*1_2 NetArduino NANO1_1 1K TC1=0 TC2=0
RR2 Net*1_2 0 TC1=0 TC2=0
RR3 Net*2_4 Net*4_1 TC1=0 TC2=0
RR4 Net*2_3 Net*4_1 TC1=0 TC2=0

.PLOT {V(Net*1_1)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:

.END